US08835634B2
To a solution of 400 mg (2.32 mM) of N-(2,2-difluoroethyl)benzene-1,2-diamine in 7 ml of methanol were added 349 mg (2.32 mM) of 2-Oxo-2-phenylacetic acid. The mixture was refluxed for 3 h and the solvent was then removed under vacuum. The residue was further purified by silica gel column chromatography using dichloromethane/cyclohexane as eluant, to give 231.8 mg of 1-(2,2-difluoroethyl)-3-phenyl-quinoxalin-2(1H)-one as a pale beige solid. Yield: 35%.

reactant | N-(2,2-difluoroethyl)benzene-1,2-diamine | 2.32 mM, 400 mg | FC(CNC=1C(=CC=CC1)N)F | C8H10F2N2
reactant | 2-Oxo-2-phenylacetic acid | 2.32 mM, 349 mg | O=C(C(=O)O)C1=CC=CC=C1 | C8H6O3
solvent | methanol | 7 ml | CO | CH4O
product | 1-(2,2-difluoroethyl)-3-phenyl-quinoxalin-2(1H)-one | 231.8 mg, Yield: 35% | FC(CN1C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)=O)F | C16H12F2N2O
